US07132426B2
Preparation of (4-Ethoxy-phenyl)-{4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone (Compound A184)
In a 50 mL round-bottomed flask fitted with N2 inlet was placed 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine (50 mg, 0.117 mmol) and triethylamine (65 μl) and THF (0.8 mL). The reaction flask was immersed in an ice-bath. 4-Ethoxy-benzoyl chloride (24 mg, 0.129 mmol) was added to the solution and the mixture was stirred 2 h under N2 at 0° C. After all of the starting amine was completely converted as indicated by LCMS, the reaction was stopped by quenching with water. The reaction mixture was then concentrated under vacuum and purified by column chromatography using EtOAc as eluent to give Compound A184. 1H NMR (CDCl3, 400 MHz) δ 1.43 (t, 3H), 1.96 (m, 2H), 2.17 (m, 2H), 3.13 (s, 3H), 3.55 (m, 2H), 4.06 (m, 2H), 4.12 (m, 2H), 5.71 (m, 1H), 6.92 (d, 2H), 7.43 (d, 2H), 7.92 (m, 3H), 8.33 (s, 1H), 8.62 (s, 1H). Exact mass calculated for C26H26FN5O5S 539.16, found 540.2 (MH+).

reactant | 1-(2-fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine | 0.117 mmol, 50 mg | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCNCC2 | C17H18FN5O3S
reactant | triethylamine | 65 μl | C(C)N(CC)CC | C6H15N
reactant | 4-Ethoxy-benzoyl chloride | 0.129 mmol, 24 mg | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | (4-Ethoxy-phenyl)-{4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone | C(C)OC1=CC=C(C=C1)C(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C26H26FN5O5S
